US08048909B2
Methyl 2-({4-[(methylamino)methyl]-2-phenyl-1H-pyrrol-1-yl}sulfonyl)benzoate hydrochloride
To a solution (1 mL) of methyl 2-({4-[(methylamino)methyl]-2-phenyl-1H-pyrrol-1-yl}sulfonyl)benzoate (105 mg) in ethyl acetate was added 4 mol/L hydrogen chloride-ethyl acetate solution (0.5 mL) at room temperature. The solvent was evaporated under reduced pressure, and the residue was crystallized from 2-propanol and isopropyl ether. The obtained crystals were recrystallized from a mixed solvent of ethyl acetate and ethanol to give the title compound as colorless crystals (yield 68 mg, 60%).

reactant | methyl 2-({4-[(methylamino)methyl]-2-phenyl-1H-pyrrol-1-yl}sulfonyl)benzoate | 1 mL, 105 mg | CNCC=1C=C(N(C1)S(=O)(=O)C1=C(C(=O)OC)C=CC=C1)C1=CC=CC=C1 | C20H20N2O4S
reactant | hydrogen chloride-ethyl acetate | 4 mol/L, 0.5 mL | C(C)(=O)OCC.Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 2-({4-[(methylamino)methyl]-2-phenyl-1H-pyrrol-1-yl}sulfonyl)benzoate hydrochloride | yield 68 mg, 60% | Cl.CNCC=1C=C(N(C1)S(=O)(=O)C1=C(C(=O)OC)C=CC=C1)C1=CC=CC=C1 | InChI=1S/C20H20N2O4S.ClH/c1-21-13-15-12-18(16-8-4-3-5-9-16)22(14-15)27(24,25)19-11-7-6-10-17(19)20(23)26-2;/h3-12,14,21H,13H2,1-2H3;1H
